US09193723B2
2-neopentyl-5-(4-nitrophenyl)-1,3,4-oxadiazole
A mixture of N′-(3,3-dimethylbutanoyl)-4-nitrobenzohydrazide (0.556 g, 1.991 mmol) and methyl N-(triethylammoniumsulfonyl)carbamate (0.572 g, 2.389 mmol) in tetrahydrofuran (10 ml) was heated to 120° C. in a microwave for 45 minutes. The crude reaction mixture was concentrated and purified by normal phase chromatography to give the title compound.

reactant | N′-(3,3-dimethylbutanoyl)-4-nitrobenzohydrazide | 1.991 mmol, 0.556 g | CC(CC(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C13H17N3O4
reactant | methyl N-(triethylammoniumsulfonyl)carbamate | 2.389 mmol, 0.572 g | C(C)[N+](S(=O)(=O)NC(OC)=O)(CC)CC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-neopentyl-5-(4-nitrophenyl)-1,3,4-oxadiazole | C(C(C)(C)C)C=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H15N3O3
